### PR TITLE
[Merged by Bors] - feat(CategoryTheory/Triangulated): t-exact functors

### PR DESCRIPTION
**Pull request by joelriou**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/CategoryTheory/Triangulated/TStructure/TExact.lean [hunk 1]
```diff
@@ -0,0 +1,76 @@
...
+variable {C D : Type*} [Category* C] [Category* D] [Preadditive C] [Preadditive D]
+  [HasZeroObject C] [HasZeroObject D] [HasShift C ℤ] [HasShift D ℤ]
+  [∀ (n : ℤ), (shiftFunctor C n).Additive] [∀ (n : ℤ), (shiftFunctor D n).Additive]
+  [Pretriangulated C] [Pretriangulated D]
+
+/-- A triangulated functor `F` is left `t`-exact if `X ≥ n` implies `F.obj X ≥ n`.
+(It suffices to test this for `n := 0`, see `LeftExact.mk'`.) -/
+class LeftTExact (F : C ⥤ D) [F.CommShift ℤ] [F.IsTriangulated]
+    (t₁ : TStructure C) (t₂ : TStructure D) : Prop where
+  isGE_obj (F t₁ t₂) (X : C) (n : ℤ) [t₁.IsGE X n] : t₂.IsGE (F.obj X) n
```
Comment (robin-carlier) [inline Mathlib/CategoryTheory/Triangulated/TStructure/TExact.lean:38]: If you do this, then we can make name the other constructor `mk` instead of having to name it `mk'` (and if we really want to only have people use `mk`, we can even make this constructor `mk'` private!)
```suggestion
/-- A triangulated functor `F` is left `t`-exact if `X ≥ n` implies `F.obj X ≥ n`.
(It suffices to test this for `n := 0`, see `LeftExact.mk'`.) -/
class LeftTExact (F : C ⥤ D) [F.CommShift ℤ] [F.IsTriangulated]
    (t₁ : TStructure C) (t₂ : TStructure D) : Prop where mk'::
  isGE_obj (F t₁ t₂) (X : C) (n : ℤ) [t₁.IsGE X n] : t₂.IsGE (F.obj X) n
```

```suggestion
/-- A triangulated functor `F` is left `t`-exact if `X ≥ n` implies `F.obj X ≥ n`.
(It suffices to test this for `n := 0`, see `LeftExact.mk'`.) -/
class LeftTExact (F : C ⥤ D) [F.CommShift ℤ] [F.IsTriangulated]
    (t₁ : TStructure C) (t₂ : TStructure D) : Prop where private mk'::
  isGE_obj (F t₁ t₂) (X : C) (n : ℤ) [t₁.IsGE X n] : t₂.IsGE (F.obj X) n
```

File: Mathlib/CategoryTheory/Triangulated/TStructure/TExact.lean [hunk 2]
```diff
@@ -0,0 +1,76 @@
...
+
+/-- A triangulated functor is `t`-exact if it is both left and right `t`-exact. -/
+class TExact : Prop where
+  rightTExact : F.RightTExact t₁ t₂ := by infer_instance
+  leftTExact : F.LeftTExact t₁ t₂ := by infer_instance
+
+attribute [instance] TExact.rightTExact TExact.leftTExact
+
+/-- Constructor for `LeftTExact`. -/
+lemma LeftTExact.mk' (h : ∀ (X : C) [t₁.IsGE X 0], t₂.IsGE (F.obj X) 0) :
```
Comment (robin-carlier) [inline Mathlib/CategoryTheory/Triangulated/TStructure/TExact.lean:59]:
```suggestion
lemma LeftTExact.mk' (isGE_obj_zero : ∀ (X : C) [t₁.IsGE X 0], t₂.IsGE (F.obj X) 0) :
```

File: Mathlib/CategoryTheory/Triangulated/TStructure/TExact.lean [hunk 3]
```diff
@@ -0,0 +1,76 @@
...
+    F.LeftTExact t₁ t₂ where
+  isGE_obj X n _ := by
+    have := t₁.isGE_shift X n n 0 (add_zero n)
+    have : t₂.IsGE ((shiftFunctor C n ⋙ F).obj X) 0 := h (X⟦n⟧)
+    have : t₂.IsGE ((F.obj X)⟦n⟧) 0 := t₂.isGE_of_iso ((F.commShiftIso n).app X) 0
+    exact t₂.isGE_of_shift (F.obj X) n n 0 (add_zero n)
+
+/-- Constructor for `RightTExact`. -/
+lemma RightTExact.mk' (h : ∀ (X : C) [t₁.IsLE X 0], t₂.IsLE (F.obj X) 0) :
```
Comment (robin-carlier) [inline Mathlib/CategoryTheory/Triangulated/TStructure/TExact.lean:68]:
```suggestion
lemma RightTExact.mk' (isLE_obj_zero : ∀ (X : C) [t₁.IsLE X 0], t₂.IsLE (F.obj X) 0) :
```

File: Mathlib/CategoryTheory/Triangulated/TStructure/TExact.lean [hunk 4]
```diff
@@ -0,0 +1,76 @@
...
+attribute [instance] TExact.rightTExact TExact.leftTExact
+
+/-- Constructor for `LeftTExact`. -/
+lemma LeftTExact.mk' (h : ∀ (X : C) [t₁.IsGE X 0], t₂.IsGE (F.obj X) 0) :
+    F.LeftTExact t₁ t₂ where
+  isGE_obj X n _ := by
+    have := t₁.isGE_shift X n n 0 (add_zero n)
+    have : t₂.IsGE ((shiftFunctor C n ⋙ F).obj X) 0 := h (X⟦n⟧)
+    have : t₂.IsGE ((F.obj X)⟦n⟧) 0 := t₂.isGE_of_iso ((F.commShiftIso n).app X) 0
+    exact t₂.isGE_of_shift (F.obj X) n n 0 (add_zero n)
```
Comment (robin-carlier) [inline Mathlib/CategoryTheory/Triangulated/TStructure/TExact.lean:65]:
```suggestion
  isGE_obj X n _ :=
    have := t₁.isGE_shift X n n 0 (add_zero n)
    have : t₂.IsGE ((shiftFunctor C n ⋙ F).obj X) 0 := h (X⟦n⟧)
    have : t₂.IsGE ((F.obj X)⟦n⟧) 0 := t₂.isGE_of_iso ((F.commShiftIso n).app X) 0
    t₂.isGE_of_shift (F.obj X) n n 0 (add_zero n)
```

File: Mathlib/CategoryTheory/Triangulated/TStructure/TExact.lean [hunk 5]
```diff
@@ -0,0 +1,76 @@
...
+
+/-- Constructor for `RightTExact`. -/
+lemma RightTExact.mk' (h : ∀ (X : C) [t₁.IsLE X 0], t₂.IsLE (F.obj X) 0) :
+    F.RightTExact t₁ t₂ where
+  isLE_obj X n _ := by
+    have := t₁.isLE_shift X n n 0 (add_zero n)
+    have : t₂.IsLE ((shiftFunctor C n ⋙ F).obj X) 0 := h (X⟦n⟧)
+    have : t₂.IsLE ((F.obj X)⟦n⟧) 0 := t₂.isLE_of_iso ((F.commShiftIso n).app X) 0
+    exact t₂.isLE_of_shift (F.obj X) n n 0 (add_zero n)
```
Comment (robin-carlier) [inline Mathlib/CategoryTheory/Triangulated/TStructure/TExact.lean:74]:
```suggestion
  isLE_obj X n _ :=
    have := t₁.isLE_shift X n n 0 (add_zero n)
    have : t₂.IsLE ((shiftFunctor C n ⋙ F).obj X) 0 := h (X⟦n⟧)
    have : t₂.IsLE ((F.obj X)⟦n⟧) 0 := t₂.isLE_of_iso ((F.commShiftIso n).app X) 0
    t₂.isLE_of_shift (F.obj X) n n 0 (add_zero n)
```

**Comment by robin-carlier** [comment]
Thanks!

maintainer merge

**Comment by riccardobrasca** [comment]
Thanks!

bors merge
